US04980470
Synthesis of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-5-nitro-4-oxo-3-quinolinecarboxylic acid
To a solution of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (490 mg) in concentrated sulfuric acid (5 ml) was added potassium nitrate (235 mg) below 5° C. under stirring portionwise. After stirring for 45 minutes, the reaction mixture was poured into ice water (25 ml) and the resulting precipitate was collected by filtration, washed with cold water sufficiently, recrystallized from a solution of dichloromethane-methanol (1:1) to give the title compound (392 mg) as yellow prisms, mp 215.5°-221° C. (decompd.).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 490 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | potassium nitrate | 235 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-5-nitro-4-oxo-3-quinolinecarboxylic acid | 392 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)OC)F)F)[N+](=O)[O-])=O)C(=O)O | C14H10F2N2O6
